US08242104B2
Under an atmosphere of nitrogen a solution of 1-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole (15.7 g, 86.7 mmol) in THF (300 mL) at −78° C. was treated with n-butyllithium (38 mL, 2.5 M, 95.3 mmol) dropwise. After stirring for 1.5 h a solution of hexachloroethane (22.6 g, 95.3 mmol) in THF (30 mL) was added dropwise. The resultant reaction mixture was stirred for 1.5 h before allowing to warm to RT and quenching with water. The resultant mixture was diluted with water and extracted with ethyl acetate, the combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to give an oil which crystallised on standing. The solid was recrystallised from cyclohexane to give 5-Chloro-1-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole (12.4 g, 66%). 1H NMR δ (ppm) (CDCl3): 8.04 (1H, s), 7.51-7.43 (1H, m), 7.10-7.04 (2H, m).

reactant | 1-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole | 86.7 mmol, 15.7 g | FC1=C(C=CC(=C1)F)N1N=CN=C1 | C8H5F2N3
reactant | n-butyllithium | 95.3 mmol, 2.5 M, 38 mL | C(CCC)[Li]
reactant | hexachloroethane | 95.3 mmol, 22.6 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Chloro-1-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole | 12.4 g, 66% | ClC1=NC=NN1C1=C(C=C(C=C1)F)F | C8H4ClF2N3
